US08222424B2
2-Chloro-5-(1-ethyl-2-oxo-2,3,4,9-tetrahydro-1H-indeno[2,1-b]pyridine-7-carbonyl)-benzenesulfonamide
Under nitrogen, aluminum chloride (0.7 g, 4.9 mmol) is slurried in dichloromethane (15 mL) then 4-chloro-3-sulfamoyl-benzoyl chloride (287 mg, 1.13 mmol) is added and allowed to stir at ambient temperature for 30 minutes. Then 1-ethyl-1,3,4,9-tetrahydro-indeno[2,1-b]pyridin-2-one (240 mg, 1.13 mmol) is added in 4 mL dichloromethane. The reaction is allowed to stir at ambient temperature for 1.5 hours. The reaction mixture is poured over ice-water and extracted with dichloromethane, the organic layer is separated and concentrated to give crude title compound as a brown oil. Recrystallization from warm dichloromethane afforded the title compound as a yellow powder (125 mg, 26% yield). 1H NMR (MeOD) δ 1.26 (t, 2H, J=7.01 Hz), 2.76-2.83 (m, 4H), 3.6 (s, 2H), 3.77 (q, 2H, J=7.01), 5.19 (s, 2H), 7.19 (d, 1H, J=8.11 Hz), 7.68-7.73 (m, 2H), 7.86 (d, 1H, J=1.09), 7.94 (dd, 1H, J=2.19, 8.11 Hz), 8.46 (d, 1H, J=1.97 Hz). MS (m/z): 431 (M+1).

reactant | aluminum chloride | 4.9 mmol, 0.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-chloro-3-sulfamoyl-benzoyl chloride | 1.13 mmol, 287 mg | ClC1=C(C=C(C(=O)Cl)C=C1)S(N)(=O)=O | C7H5Cl2NO3S
reactant | 1-ethyl-1,3,4,9-tetrahydro-indeno[2,1-b]pyridin-2-one | 1.13 mmol, 240 mg | C(C)N1C2=C(CCC1=O)C=1C=CC=CC1C2 | C14H15NO
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 2-Chloro-5-(1-ethyl-2-oxo-2,3,4,9-tetrahydro-1H-indeno[2,1-b]pyridine-7-carbonyl)-benzenesulfonamide | 125 mg, 26% yield | ClC1=C(C=C(C=C1)C(=O)C1=CC=2CC=3N(C(CCC3C2C=C1)=O)CC)S(=O)(=O)N | C21H19ClN2O4S
